US09403810B2
Step 5: 4-Methyl-5-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazole-3-carboxylic acid
To a stirred solution of ethyl 4-methyl-5-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazole-3-carboxylate (558 mg, 1.889 mmol) in THF (5 mL), 2M NaOH (aq) (4.179 ml, 8.36 mmol) was added and the reaction mixture was stirred at room temperature for 15 minutes. The resulting mixture was poured into water (20 mL) and the pH adjusted to pH 5-6 by the addition of 1M HCl. The aqueous was extracted with EtOAc (30 mL) and the combined organic extracts were washed with brine (20 mL), dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford the title compound;

reactant | ethyl 4-methyl-5-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazole-3-carboxylate | 1.889 mmol, 558 mg | CC=1C(=NOC1C1CCC2(OCCO2)CC1)C(=O)OCC | C15H21NO5
reactant | NaOH | 8.36 mmol, 2M, 4.179 ml | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Methyl-5-(1,4-dioxaspiro[4.5]decan-8-yl)isoxazole-3-carboxylic acid | CC=1C(=NOC1C1CCC2(OCCO2)CC1)C(=O)O | C13H17NO5
